US04831179
10 g of sodium 3-trifluoromethylbenzylsulfonate was slowly added to 17.7 ml (29.1 g) of phosphorous oxychloride. The resulting slurry was stirred at 100° to 105° C. for five hours. The reaction mixture was then cooled and filtered. The filter cake was washed with methylene chloride, the washings were combined with the filtrate and then evaporated to dryness affording 8.9 g of 3-trifluoromethylbenzylsulfonyl chloride.

reactant | sodium 3-trifluoromethylbenzylsulfonate | 10 g | FC(C=1C=C(CS(=O)(=O)[O-])C=CC1)(F)F.[Na+]
reactant | phosphorous oxychloride | 17.7 ml, 29.1 g | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 3-trifluoromethylbenzylsulfonyl chloride | 8.9 g | FC(C=1C=C(CS(=O)(=O)Cl)C=CC1)(F)F | C8H6ClF3O2S
